US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[5-[2-(methanesulfonylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-1,2-cyclohexane-diamine hydrochloride
(±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (110 mg) was dissolved in pyridine (3 ml), methanesulfonyl chloride (30 μl) was added, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and a 85:15 mixed solvent of dichloromethane and methanol, and water were added to conduct liquid separation. The resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a pale yellow foamy substance. This product was suspended in 1N hydrochloric acid (0.3 ml), and the suspension was concentrated under reduced pressure to obtain the title compound (63 mg) as a pale yellow foamy substance.

reactant | (±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 110 mg | Cl.NCCN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)NC(=O)C=2NC1=CC=C(C=C1C2)Cl
reactant | methanesulfonyl chloride | 30 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 1N, 0.3 ml | Cl | ClH
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[5-[2-(methanesulfonylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-1,2-cyclohexane-diamine hydrochloride | 63 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=2CN(CCC2N1)CCNS(=O)(=O)C | InChI=1S/C25H31ClN6O4S2.ClH/c1-38(35,36)27-9-11-32-10-8-20-22(14-32)37-25(31-20)24(34)30-19-5-3-2-4-18(19)29-23(33)21-13-15-12-16(26)6-7-17(15)28-21;/h6-7,12-13,18-19,27-28H,2-5,8-11,14H2,1H3,(H,29,33)(H,30,34);1H/t18-,19+;/m1./s1
